US07094769B2
(2S,3S,4R,5R)-5-{2-[(4-amino-1-piperidinyl)carbonyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
A solution of (2S,3S,4R,5R)-5-[6-[(2,2-diphenylethyl)amino]-2-({4-[(trifluoroacetyl)amino]-1-piperidinyl}carbonyl)-9H-purin-9-yl]-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide (Preparation 40) (40 mg, 0.056 mmol) in methanol (1 ml) and concentrated aqueous ammonia solution (0.5 ml) was stirred at room temperature for 48 hours. Solvent was removed by evaporation under reduced pressure to give the target compound as a white solid, (35 mg).

reactant | (2S,3S,4R,5R)-5-[6-[(2,2-diphenylethyl)amino]-2-({4-[(trifluoroacetyl)amino]-1-piperidinyl}carbonyl)-9H-purin-9-yl]-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 0.056 mmol, 40 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)N1CCC(CC1)NC(C(F)(F)F)=O)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)C1=CC=CC=C1 | C34H37F3N8O6
solvent | methanol | 1 ml | CO | CH4O
solvent | ammonia | 0.5 ml | N | H3N
product | (2S,3S,4R,5R)-5-{2-[(4-amino-1-piperidinyl)carbonyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 35 mg | NC1CCN(CC1)C(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H38N8O5
